US08486952B2
tert-butyl 4-(2-chloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (Preparation Hl) (117 mg, 0.270 mmol) and 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline (Preparation A) (60.4 mg, 0.270 mmol) were combined as per Example 26 to give tert-butyl 4-(2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylamino)-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate (104 mg, 0.168 mmol, 62.1% yield) crude without purification. LC-MS (M+H)+=620.4.

reactant | tert-butyl 4-(2-chloro-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | 0.270 mmol, 117 mg | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)N2CCN(CC2)C(=O)OC(C)(C)C | C22H26ClFN4O2
reactant | 4-(4-chloro-1H-imidazol-1-yl)-3-methoxyaniline | ClC=1N=CN(C1)C1=C(C=C(N)C=C1)OC | C10H10ClN3O
product | tert-butyl 4-(2-(4-(4-chloro-1H-imidazol-1-yl)-3-methoxyphenylamino)-7-(4-fluorophenyl)-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-yl)piperazine-1-carboxylate | 0.168 mmol, 104 mg, 62.1% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1)NC=1N=C(C2=C(N1)C(CC2)C2=CC=C(C=C2)F)N2CCN(CC2)C(=O)OC(C)(C)C)OC | C32H35ClFN7O3
